US09034866B2
Synthesis of ethyl 2-bromo-3-fluoro-8-oxo-6,7,8,9-tetrahydro-5H-5,7-methanobenzo[7]annulene-9-carboxylate
To a solution of 6-bromo-7-fluoro-2,3-dihydro-1,3-methanonaphthalen-4(1H)-one (9.00 g, 35.3 mmol) in dry dichloromethane (180 mL) at 0° C. was introduced triethyloxonium tetrafluoroborate (141 mL of a 1.0M solution in dichloromethane, 141 mmol) dropwise over 15 minutes. A solution of ethyl diazoacetate (8.05 g in 75 mL dry dichloromethane, 70.6 mmol) was then added slowly over 20 minutes ensuring the reaction temperature did not rise >3° C. After 30 minutes, the reaction mixture was allowed to warm to room temperature for 16 hr. The solution was then re-cooled to 0° C. and re-treated with triethyloxonium tetrafluoroborate (141 mL of a 1.0M solution in dichloromethane, 141 mmol) and ethyl diazoacetate (8.05 g in 75 mL dry dichloromethane, 70.6 mmol) as described for the first treatment. After warming to room temperature for 5½ hours, the reaction mixture was washed with saturated aqueous sodium bicarbonate (3×100 mL washes), the organic phase dried over sodium sulfate and filtered under vacuum through a Celite 0 pad. The filtrate was adsorbed onto silica gel in vacuo and purified by silica gel flash column chromatography (heptanes/ethyl acetate gradient elution of increasing polarity) to furnish the title compound (8.70 g, 25.50 mmol, 72%) as a colorless solid: 1H NMR (500 MHz, CDCl3) δ 1.27 (t, J=7.09 Hz, 4H) 1.84 (dd, J=11.66, 6.62 Hz, 1H) 2.32 (dd, J=12.93, 6.94 Hz, 1H) 2.80 (dt, J=12.61, 7.88 Hz, 1H) 3.04 (dt, J=11.90, 8.55 Hz, 1H) 3.38 (ddd, J=8.83, 7.57, 3.78 Hz, 1H) 3.45 (td, J=8.20, 3.78 Hz, 1H) 4.18-4.29 (m, 2H) 4.78 (s, 1H) 6.88 (d, J=9.14 Hz, 1H) 7.48 (d, J=6.94 Hz, 1H); M+23=363/365.

reactant | 6-bromo-7-fluoro-2,3-dihydro-1,3-methanonaphthalen-4(1H)-one | 35.3 mmol, 9.00 g | BrC=1C=C2C(C3CC(C2=CC1F)C3)=O | C11H8BrFO
reactant | triethyloxonium tetrafluoroborate | F[B-](F)(F)F.C(C)[O+](CC)CC
reactant | ethyl diazoacetate | 70.6 mmol, 75 mL, 8.05 g | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
reactant | ethyl diazoacetate | 70.6 mmol, 75 mL, 8.05 g | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
solvent | dichloromethane | 180 mL | ClCCl | CH2Cl2
product | ethyl 2-bromo-3-fluoro-8-oxo-6,7,8,9-tetrahydro-5H-5,7-methanobenzo[7]annulene-9-carboxylate | 25.50 mmol, 8.70 g, 72% | BrC=1C(=CC2=C(C(C(C3CC2C3)=O)C(=O)OCC)C1)F | C15H14BrFO3
